US05919769
(2,3,4-Tri-O-acetyl)-L-fucopyranose (13.1 g) is dissolved in methylene chloride (100 ml), and thereto is added with stirring DAST (10.9 g) under ice-cooling, and the mixture is stirred for 4 hours under ice-cooling. The reaction mixture is poured into ice-water (200 g), and the mixture is separated. The organic layer is dried, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (n-hexane:ethyl acetate=1:4→1:2) to give (2,3,4-tri-O-acetyl)-L-fucopyranosyl fluoride (10.6 g) in the form of a mixture of α-anomer and β-anomer.

reactant | (2,3,4-Tri-O-acetyl)-L-fucopyranose | 13.1 g | C(C)(=O)O[C@@H]1C(O)O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C | C12H18O8
reactant | DAST | 10.9 g | CCN(CC)S(F)(F)F | C4H10F3NS
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | (2,3,4-tri-O-acetyl)-L-fucopyranosyl fluoride | 10.6 g | C(C)(=O)O[C@@H]1C(O[C@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)C)F | C12H17FO7
